US07635715B2
Step F: Preparation of N-((7-Chloro-6-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine
1,1-Dimethylethyl N-((7-chloro-6-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate (200 mg, 503 μmol) was reacted with TFA (2 mL) at ambient temperature for 30 minutes. The mixture was concentrated, precipitated with hexanes, filtered, washed with hexanes, and dried in a vacuum oven to give the title compound (139 mg) as a white solid. MS m/e=342 (M+H)+. Calculated for C15H13NO5 341.05.

reactant | 1,1-Dimethylethyl N-((7-chloro-6-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 503 μmol, 200 mg | ClC1=C(C=C2C(=C(C(C(C2=C1)(C)C)=O)C(=O)NCC(=O)OC(C)(C)C)O)F | C19H21ClFNO5
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-((7-Chloro-6-fluoro-4-hydroxy-1,1-dimethyl-2-oxo-naphthalen-3-yl)carbonyl)glycine | 139 mg | ClC1=C(C=C2C(=C(C(C(C2=C1)(C)C)=O)C(=O)NCC(=O)O)O)F | C15H13ClFNO5
